US05438139
Acridine-9-carboxylic acid (0.42 g, 1.87 mmol) was suspended in thionyl chloride (10 ml) and the suspension was refluxed under heating for 2 h. Excess thionyl chloride was distilled off the reaction mixture under reduced pressure to give 9-chlorocarbonylacridine hydrochloride (0.5 g, 96%). Then, the resulting 9-chlorocarbonylacridine hydrochloride (0.5 g) and 2-methylphenol (0.2 g, 1.9 mmol) were suspended in dichloromethane (15 ml) and triethylamine (1.0 ml) and a catalytic amount of dimethylaminopyridine were added to the suspension with stirring. The reaction mixture was stirred at room temperature for 15 h and thereafter washed with 1 N HCl, water, a 5% aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride in the order written. The organic layer was separated and dried over anhydrous sodium sulfate, followed by evaporation of the solvent under reduced pressure. The residue was purified by silica gel column chromatography using a dichloromethane-hexane mixture as eluant, giving the desired compound, 2'-methylphenyl acridine-9-carboxylate, in an amount of 0.33 g.

reactant | Acridine-9-carboxylic acid | 1.87 mmol, 0.42 g | C1=CC=CC2=NC3=CC=CC=C3C(=C12)C(=O)O | C14H9NO2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 9-chlorocarbonylacridine hydrochloride | 0.5 g, 96% | Cl.ClC(=O)C=1C2=CC=CC=C2N=C2C=CC=CC12 | InChI=1S/C14H8ClNO.ClH/c15-14(17)13-9-5-1-3-7-11(9)16-12-8-4-2-6-10(12)13;/h1-8H;1H
